US04365024
A. Preparation of Ethoxylated Castor Oil-Ditridecyl Maleate Surfactant
To a 500 ml resin kettle equipped with an overhead stirrer and containing 200 g of Flo Mo 36 C (ethoxylated castor oil) were added 50 g ditridecyl maleate and 6 g 1,1-bis(t-butylperoxy)cyclohexane (available from Witco Chemical Company under the tradename USP-400P). The mixture was then heated to 110° C. for 4 hours under nitrogen to yield a viscous liquid surfactant of the invention (Surfactant No. 54).

reactant | ethoxylated castor oil | C(C(CCl)OC(=O)N)Cl | C4H7Cl2NO2
reactant | ditridecyl maleate | 50 g | C(\C=C/C(=O)OCCCCCCCCCCCCC)(=O)OCCCCCCCCCCCCC | C30H56O4
reactant | 1,1-bis(t-butylperoxy)cyclohexane | 6 g | C(C)(C)(C)OOC1(CCCCC1)OOC(C)(C)C | C14H28O4
product | Ethoxylated Castor Oil Ditridecyl Maleate | C(C(CCl)OC(=O)N)Cl.C(\C=C/C(=O)OCCCCCCCCCCCCC)(=O)OCCCCCCCCCCCCC | InChI=1S/C30H56O4.C4H7Cl2NO2/c1-3-5-7-9-11-13-15-17-19-21-23-27-33-29(31)25-26-30(32)34-28-24-22-20-18-16-14-12-10-8-6-4-2;5-1-3(2-6)9-4(7)8/h25-26H,3-24,27-28H2,1-2H3;3H,1-2H2,(H2,7,8)/b26-25-;
